US05750549
6-Hydroxy-2-methyl-benzothiazole-7-carboxaldehyde
To a 3-necked flask equipped with a thermometer and an addition funnel were added 6-hydroxy-2-methyl-benzothiazole (1.0 gm, 6.05 mmol) and hexamethylenetetramine (3.4 gm, 24.3 mmol). After cooling in an ice-bath, trifluoroacetic acid (10 mL) was added dropwise with stirring while maintaining the temperature below 60° C. The reaction mixture was stirred overnight at 70°-75° C., cooled, and evaporated. The residue was taken up in ethyl acetate and neutralized with saturated NaHCO3 solution. The organic layer was washed with saturated brine solution and dried (Na2SO4). The solution was filtered, and the filtrate evaporated. The residue was triturated with a mixture of methylene chloride/methanol and filtered. The filtrate was evaporated, and the residue dissolved in a small volume of methylene chloride and chromatographed on a column of silica gel that was eluted with 25% acetone in hexane affording pure title compound.

reactant | 6-hydroxy-2-methyl-benzothiazole | 6.05 mmol, 1.0 gm | OC1=CC2=C(N=C(S2)C)C=C1 | C8H7NOS
reactant | hexamethylenetetramine | 24.3 mmol, 3.4 gm | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 6-Hydroxy-2-methyl-benzothiazole-7-carboxaldehyde | OC1=C(C2=C(N=C(S2)C)C=C1)C=O | C9H7NO2S
